US07932271B2
6-(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl-5-fluoro-N-thiazol-2-ylnicotinamide
To a dichloromethane (2 ml) solution were added 6-(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl-5-fluoronicotinic acid (100 mg, 0.23 mmol) were added thiazol-2-ylamine (25 mg, 0.25 mmol), benzotriazol-1-ol (34 mg, 0.25 mmol), 4-methylmorpholine (0.027 ml, 0.25 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (48 mg, 0.25 mmol) at room temperature. The resulting mixture was stirred at room temperature for 14 hours. To the reaction mixture was added ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=3:1 eluate was concentrated under reduced pressure. The residue was washed with ethanol and collected by filtration to give the title compound (72 mg, 0.14 mmol, 60%) as a white solid.

reactant | 6-(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl-5-fluoronicotinic acid | 0.23 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)C1=NC(=C(C(=O)O)C=C1F)CC1=C(C=CC(=C1)F)F | C19H11ClF3NO4S
reactant | thiazol-2-ylamine | 0.25 mmol, 25 mg | S1C(=NC=C1)N | C3H4N2S
reactant | benzotriazol-1-ol | 0.25 mmol, 34 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | 4-methylmorpholine | 0.25 mmol, 0.027 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.25 mmol, 48 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6-(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl-5-fluoro-N-thiazol-2-ylnicotinamide | 0.14 mmol, 72 mg, 60% | ClC1=CC=C(C=C1)S(=O)(=O)C1=NC(=C(C(=O)NC=2SC=CN2)C=C1F)CC1=C(C=CC(=C1)F)F | C22H13ClF3N3O3S2
